US09447090B2
To a mixture of 100 mg of 8-[(2-fluorobenzyl)oxy]-3-{[(1R)-2-hydroxy-1-phenylethyl]carbamoyl}-2-methylimidazo[1,2-a]pyridine-6-carboxylic acid, 28 μl of 4-methylmorpholine, and 0.7 ml of dimethoxyethane was added 34 μl of isobutyl chloroformate under ice-cooling, followed by stirring at room temperature overnight. The insoluble material was removed by filtration, and then to the filtrate were added 16 mg of sodium borohydride and 210 μl of methanol under ice-cooling, followed by stirring for 30 minutes under ice-cooling. To the reaction mixture were added a saturated aqueous ammonium chloride solution and chloroform to carry out a layer separation operation. The organic layer was dried over anhydrous magnesium sulfate and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to obtain 21 mg of 8-[(2-fluorobenzyl)oxy]-6-(hydroxymethyl)-N-[(1R)-2-hydroxy-1-phenylethyl]-2-methylimidazo[1,2-a]pyridine-3-carboxamide.

reactant | 8-[(2-fluorobenzyl)oxy]-3-{[(1R)-2-hydroxy-1-phenylethyl]carbamoyl}-2-methylimidazo[1,2-a]pyridine-6-carboxylic acid | 100 mg | FC1=C(COC=2C=3N(C=C(C2)C(=O)O)C(=C(N3)C)C(N[C@@H](CO)C3=CC=CC=C3)=O)C=CC=C1 | C25H22FN3O5
reactant | 4-methylmorpholine | 28 μl | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 34 μl | ClC(=O)OCC(C)C | C5H9ClO2
solvent | dimethoxyethane | 0.7 ml | C(OC)COC | C4H10O2
product | 8-[(2-fluorobenzyl)oxy]-6-(hydroxymethyl)-N-[(1R)-2-hydroxy-1-phenylethyl]-2-methylimidazo[1,2-a]pyridine-3-carboxamide | 21 mg | FC1=C(COC=2C=3N(C=C(C2)CO)C(=C(N3)C)C(=O)N[C@@H](CO)C3=CC=CC=C3)C=CC=C1 | C25H24FN3O4
